US07851634B2
a) 4-Bromo-6-methyl-1H-pyridin-2-one
16 mmol of phosphorus oxybromide are added under an argon atmosphere to a solution of 21 mmol of 4-hydroxy-6-methyl-1H-pyridin-2-one [3749-51-7] in 9 ml of N,N-dimethyl-formamide. The reaction mixture is heated to 110° C. for 30 minutes—subsequently, the mixture is cooled to room temperature and 10 ml of water are added. The solution is brought to pH 7 by adding sodium carbonate and cooled to 0° C. The precipitate is filtered off and washed with water and diethyl ether. The title compound is identified on the basis of the Rf value.

reactant | phosphorus oxybromide | 16 mmol | P(=O)(Br)(Br)Br | Br3OP
reactant | 4-hydroxy-6-methyl-1H-pyridin-2-one | 21 mmol | OC1=CC(NC(=C1)C)=O | C6H7NO2
reactant | water | 10 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethyl-formamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-6-methyl-1H-pyridin-2-one | BrC1=CC(NC(=C1)C)=O | C6H6BrNO
